US07618975B2
(4-Methyl-phenyl)-methyl-quinazolin-4-yl-amine
The title compound was prepared from 4-chloroquinazoline and 4-methyl-N-methylaniline by a procedure similar to example 28 (80% yield). 1H NMR (CDCl3): 8.23 (s, 1H), 7.82 (d, J=8.4 Hz, 1H), 7.57 (ddd, J=8.4, 6.3 and 1.8 Hz, 1H), 7.17-7.20 (m, 2H), 7.00-7.10 (m, 4H), 3.61 (s, 3H), 2.39 (s, 3H).

reactant | 4-chloroquinazoline | ClC1=NC=NC2=CC=CC=C12 | C8H5ClN2
reactant | 4-methyl-N-methylaniline | CC1=CC=C(NC)C=C1 | C8H11N
product | (4-Methyl-phenyl)-methyl-quinazolin-4-yl-amine | CC1=CC=C(C=C1)N(C1=NC=NC2=CC=CC=C12)C | C16H15N3
